US04242518
15.5 parts of chloroacetophenone are added to a solution, cooled to 0° C., of 12 parts of 3-mercapto-propionic acid methyl ester and 15.3 parts by volume of triethylamine in 100 parts by volume of chloroform. The mixture is stirred for 2 hours at 0° C. and is washed with water, and the organic phase is separated off, dried and concentrated. 21 parts (90% of theory) of 3-(benzoylmethylthio)-propionic acid methyl ester of boiling point 156°-160° C./0.3 mbar are obtained.

reactant | chloroacetophenone | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
reactant | 3-mercapto-propionic acid methyl ester | COC(CCS)=O | C4H8O2S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-(benzoylmethylthio)-propionic acid methyl ester | 90% | COC(CCSCC(C1=CC=CC=C1)=O)=O | C12H14O3S
